US07816391B2
1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid (Intermediate#35) (220 mg, 0.66 mmol) was dissolved in DCM (5 mL) and 1 drop of DMF added. Oxalyl chloride (176 μL, 1.96 mmol) was added and the mixture stiffed at ambient temperature for 3 h. Volatiles were removed by evaporation under reduced pressure and the resulting gum re-dissolved in DCM (2 mL) and added at ambient temperature to a solution of cyclohexylamine (66 mg, 0.66 mmol) and DIPEA (230 μL, 1.32 mmol) in DCM (5 mL). The reaction mixture was stirred at ambient temperature for 2 h, diluted with EtOAc (50 mL) and washed with water (2×10 mL) and brine (10 mL), dried (MgSO4) and evaporated under reduced pressure. The residue was purified by flash chromatography on silica gel (elution gradient 0-100% EtOAc in isohexane) to afford methyl 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate as a white solid. (220 mg, 88%)

reactant | 1-[4-(methoxycarbonylmethyl)phenyl]-5-propylsulfanyl-pyrazole-4-carboxylic acid | 0.66 mmol, 220 mg | COC(=O)CC1=CC=C(C=C1)N1N=CC(=C1SCCC)C(=O)O | C16H18N2O4S
reactant | Oxalyl chloride | 1.96 mmol, 176 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | cyclohexylamine | 0.66 mmol, 66 mg | C1(CCCCC1)N | C6H13N
reactant | DIPEA | 1.32 mmol, 230 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | methyl 2-[4-[4-(cyclohexylcarbamoyl)-5-propylsulfanyl-pyrazol-1-yl]phenyl]acetate | C1(CCCCC1)NC(=O)C=1C=NN(C1SCCC)C1=CC=C(C=C1)CC(=O)OC | C22H29N3O3S
